US08114902B2
N-{1,1-bis(acetoxymethyl)-3-[2-chloro-4-(5,5-dimethyl-1,3,2-dioxaborinan-2-yl)phenyl]propyl}acetamide
A solution of N-[1,1-bis(acetoxymethyl)-3-(4-bromo-2-chlorophenyl)propyl]acetamide (2.17 g) of Reference Example 21, bis(neopentyl glycolato)diboron (1.24 g), potassium acetate (1.47 g) and dichlorobis(tricyclohexylphosphine)palladium (II) (185 mg) in 1,4-dioxane (20 mL) was stirred at 100° C. for 7 hr. The reaction mixture was poured into water. After extraction with ethyl acetate, the extract was washed with aqueous sodium hydrogen carbonate solution and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to give the title compound (2.05 g) as pale-yellow amorphous crystals.

reactant | N-[1,1-bis(acetoxymethyl)-3-(4-bromo-2-chlorophenyl)propyl]acetamide | 2.17 g | C(C)(=O)OCC(CCC1=C(C=C(C=C1)Br)Cl)(COC(C)=O)NC(C)=O | C17H21BrClNO5
reactant | bis(neopentyl glycolato)diboron | 1.24 g | B1(OCC(CO1)(C)C)B2OCC(CO2)(C)C | C10H20B2O4
reactant | potassium acetate | 1.47 g | C(C)(=O)[O-].[K+]
reactant | water | O | H2O
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | dichlorobis(tricyclohexylphosphine)palladium (II) | 185 mg | C1CCC(CC1)P(C2CCCCC2)C3CCCCC3.C1CCC(CC1)P(C2CCCCC2)C3CCCCC3.Cl[Pd]Cl
product | N-{1,1-bis(acetoxymethyl)-3-[2-chloro-4-(5,5-dimethyl-1,3,2-dioxaborinan-2-yl)phenyl]propyl}acetamide | 2.05 g | C(C)(=O)OCC(CCC1=C(C=C(C=C1)B1OCC(CO1)(C)C)Cl)(COC(C)=O)NC(C)=O | C22H31BClNO7
